US05643931
1,3-bis[4-(N-hydroxyaminomethyl)phenoxy]benzene (1.76 g) was dissolved in 35 ml of tetrahydrofuran to which, with ice-cooling and in an atmosphere of argon, was subsequently added dropwise 1.65 g of n-butoxycarbonyl isocyanate. After 30 minutes of stirring at the same temperature, 1N sodium hydroxide aqueous solution was added dropwise thereto and the stirring was continued for 30 minutes at room temperature. After adding 1N hydrochloric acid, the solvent was evaporated, and the resulting residue was subjected to silica gel column chromatography to obtain 1.0 g of 1,3-bis[4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy]benzene from fractions of chloroform-methanol (30:1) elution.

reactant | 1,3-bis[4-(N-hydroxyaminomethyl)phenoxy]benzene | 1.76 g | ONCC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)CNO)C=C1 | C20H20N2O4
reactant | n-butoxycarbonyl isocyanate | 1.65 g | C(CCC)OC(=O)N=C=O | C6H9NO3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 1,3-bis[4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy]benzene | 1.0 g | O=C1N(OC(N1)=O)CC1=CC=C(OC2=CC(=CC=C2)OC2=CC=C(C=C2)CN2OC(NC2=O)=O)C=C1 | C24H18N4O8
